US04738970
1 Gram of methyl 6-amino-5-nitronicotinate was dissolved in 10 ml of methanol. To this solution was added 0.1 g of 5%-palladium-carbon, then hydrogen gas was absorbed at room temperature under a normal pressure. The reaction was stopped when the stoichiometric amount of hydrogen was absorbed. The catalyst was removed from the reaction mixture by filtration, and the solvent was removed by evaporation. The residue thus obtained was recrystallized from ethanol to yield 0.8 g of methyl 5,6-diaminonicotinate in the form of yellow needle-like crystals. Melting point: 154°-155° C.

reactant | methyl 6-amino-5-nitronicotinate | NC1=NC=C(C(=O)OC)C=C1[N+](=O)[O-] | C7H7N3O4
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium-carbon | [C].[Pd]
product | methyl 5,6-diaminonicotinate | 0.8 g | NC=1C(=NC=C(C(=O)OC)C1)N | C7H9N3O2
